US09422279B2
To a suspension of K2CO3 (40 mg, 0.28 mmol) and 2,6-dihydroxybenzaldehyde (40 mg, 0.28 mmol) in DMF (1 mL) was added a solution of 1-(4-(chloromethyl)-5-phenyl-3,6-dihydropyridin-1(2H)-yl)ethan-1-one (35 mg, 0.14 mmol) in DMF (1 mL), the mixture was heated at 50° C. for 3 h, cooled to room temperature, and was diluted with EtOAc, organic layer was separated and aqueous layer was extracted with EtOAc. EtOAc layers were combined, washed with Sat. NaHCO3, brine, dried over Na2SO4, and was concentrated to give crude oil, which was purified by column (DCM/MeOH=90:10) to give 2-((1-acetyl-5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methoxy)-6-hydroxybenzaldehyde (17 mg). 1H NMR (400 MHz, CDCl3, NMR shows rotamer exist, only one set of signal was reported) □ (ppm) 11.93 (s, 1H), 10.36 (s, 1H), 7.34 (m, 5H), 7.22 (m, 1H), 6.49 (d, J=8.8 Hz, 1H), 6.10 (d, J=8.8 Hz, 1H), 4.47 (s, 2H), 4.32 (s, 2H), 3.68 (t, J=6.0 Hz, 2H), 2.47 (m, 2H), 2.18 (s, 3H); MS (ESI) m/z 352.5 [M+H]+.

reactant | K2CO3 | 0.28 mmol, 40 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,6-dihydroxybenzaldehyde | 0.28 mmol, 40 mg | OC1=C(C=O)C(=CC=C1)O | C7H6O3
reactant | 1-(4-(chloromethyl)-5-phenyl-3,6-dihydropyridin-1(2H)-yl)ethan-1-one | 0.14 mmol, 35 mg | ClCC=1CCN(CC1C1=CC=CC=C1)C(C)=O | C14H16ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-((1-acetyl-5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methoxy)-6-hydroxybenzaldehyde | 17 mg | C(C)(=O)N1CCC(=C(C1)C1=CC=CC=C1)COC1=C(C=O)C(=CC=C1)O | C21H21NO4
